US05500453
A solution of 1.29 g of lithium tert-butyltriethylborate in 50 ml of acetonitrile was added to a solution of 5.00 g of phenyl(9-anthryl)(p-chlorophenacyl)sulfonium hexafluoroarsenate in 100 ml of acetonitrile, and the resultant mixture was stirred at room temperature for 30 minutes. Then, 200 ml of water was added. The resultant precipitate of a yellow oily component was recovered, and 100 ml of dichloromethane was added. The dichloromethane layer was washed with water, dried and concentrated to give 2.43 of phenyl(9-anthryl)(p-chlorophenacyl)sulfonium-(tert-butyl)triethylborate.

reactant | lithium tert-butyltriethylborate | 1.29 g | C(C)(C)(C)[B-](CC)(CC)CC.[Li+]
reactant | phenyl(9-anthryl)(p-chlorophenacyl)sulfonium hexafluoroarsenate | 5.00 g | F[As-](F)(F)(F)(F)F.C1(=CC=CC=C1)[S+](CC(=O)C1=CC=C(C=C1)Cl)C=1C2=CC=CC=C2C=C2C=CC=CC12
reactant | water | 200 ml | O | H2O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | phenyl(9-anthryl)(p-chlorophenacyl)sulfonium (tert-butyl)triethylborate | C1(=CC=CC=C1)[S+](CC(=O)C1=CC=C(C=C1)Cl)C=1C2=CC=CC=C2C=C2C=CC=CC12.C(C)(C)(C)[B-](CC)(CC)CC | InChI=1S/C28H20ClOS.C10H24B/c29-23-16-14-20(15-17-23)27(30)19-31(24-10-2-1-3-11-24)28-25-12-6-4-8-21(25)18-22-9-5-7-13-26(22)28;1-7-11(8-2,9-3)10(4,5)6/h1-18H,19H2;7-9H2,1-6H3/q+1;-1
